US06784192B2
1-[(2-Oxo-1,2-dihydro-3-pyridinyl)methyl]-4-[2-[2-(benzylamino)phenyl]ethyl]piperidine dihydrochloride
In ethanol (8 ml) was dissolved 294 mg of 1-[(2-methoxy-3-pyridinyl)methyl]-4-[2-[2-(benzylamino)phenyl]ethyl]piperidine. To the mixture was added 3 ml of a 4N-hydrogen chloride-ethyl acetate solution, followed by heating under reflux for 3 hours. After cooling as it was, the resulting precipitates were collected by filtration and recrystallized from ethanol, to give 273 mg of the title compound as a white powder.

reactant | 1-[(2-methoxy-3-pyridinyl)methyl]-4-[2-[2-(benzylamino)phenyl]ethyl]piperidine | 294 mg | COC1=NC=CC=C1CN1CCC(CC1)CCC1=C(C=CC=C1)NCC1=CC=CC=C1 | C27H33N3O
reactant | hydrogen chloride-ethyl acetate | C(C)(=O)OCC.Cl
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 1-[(2-Oxo-1,2-dihydro-3-pyridinyl)methyl]-4-[2-[2-(benzylamino)phenyl]ethyl]piperidine dihydrochloride | 273 mg | Cl.Cl.O=C1NC=CC=C1CN1CCC(CC1)CCC1=C(C=CC=C1)NCC1=CC=CC=C1 | InChI=1S/C26H31N3O.2ClH/c30-26-24(10-6-16-27-26)20-29-17-14-21(15-18-29)12-13-23-9-4-5-11-25(23)28-19-22-7-2-1-3-8-22;;/h1-11,16,21,28H,12-15,17-20H2,(H,27,30);2*1H
